US06977263B2
2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) (120 mg, 0.38 mmol) was added to a room temperature solution of 3-methylsulfanyl-4-oxo-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (88 mg, 0.36 mmol) and diisopropylethylamine (140 mg, 1.08 mmol) in dimethylformamide (2 mL), under nitrogen. The reaction mixture was stirred for 10 minutes at room temperature before adding a solution of 4-[3-(N,N-di-tert-butoxycarbonylaminomethyl)phenyl]piperidine (140 mg, 0.36 mmol) and diisopropylethylamine (140 mg, 1.08 mmol) in dimethylformamide (2 mL). The reaction mixture was stirred at room temperature for 16 hours, concentrated to dryness in vacuo, and subjected to dry flash column chromatography on silica with 50:50, dichloromethane:ethyl acetate. 1-{1-[4-(3-(N,N-di-tert -butoxycarbonylaminomethyl)phenyl)-piperidin-1-yl]-methanoyl}-3-methylsulfanyl-6,7-dihydro-5H-benzo[c]thiophen-4-one was isolated as a colorless oil (177 mg). The intermediate was dissolved in dichloromethane (20 mL), cooled at 0° C., and treated with trifluoroacetic acid (2 mL). The reaction mixture was stirred at room temperature under nitrogen for 2 hours, and concentrated to dryness in vacuo. The residue was dissolved in 20% acetonitrile/water [containing 0.1% trifluoroacetic acid] (9 mL) and purified by preparative reverse-phase HPLC (C-18, 10 micron reverse-phase column), eluting with 10% to 100% acetonitrile/water (containing 0.1% trifluoroacetic acid). The product fractions were combined and the acetonitrile removed in vacuo. The aqueous residue was frozen and lyophilized to give the title compound as an amorphous white solid (122 mg, 64%). 1H NMR [(CD3)2SO]: δ 8.16 (br s, 3H, NH3+); 7.41-7.24 (m, 4H); 4.21 (br d, 2H); 4.03 (q, 2H); 3.18-3.02 (m, 2H); 2.91-2.72 (m, 3H); 2.59 (s, 3H); 2.53-2.41 (m, 2H); 1.98-1.90 (m, 2H); 1.90-1.79 (m, 2H); 1.68-1.50 (m, 2H). MS(Ion spray): 415 (M++1).

reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.38 mmol, 120 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-methylsulfanyl-4-oxo-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 0.36 mmol, 88 mg | CSC1=C2C(=C(S1)C(=O)O)CCCC2=O | C10H10O3S2
reactant | diisopropylethylamine | 1.08 mmol, 140 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[3-(N,N-di-tert-butoxycarbonylaminomethyl)phenyl]piperidine | 0.36 mmol, 140 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)C1CCNCC1 | C22H34N2O4
reactant | diisopropylethylamine | 1.08 mmol, 140 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-{1-[4-(3-(N,N-di-tert -butoxycarbonylaminomethyl)phenyl)-piperidin-1-yl]-methanoyl}-3-methylsulfanyl-6,7-dihydro-5H-benzo[c]thiophen-4-one | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)C1CCN(CC1)C(=O)C=1SC(=C2C1CCCC2=O)SC | C32H42N2O6S2
